US07557213B2
Preparation of 1-(3-Chloro-benzyl)-3-(6-ethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 300 mg (0.84 mmol) of 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 2 mL THF and 433 mg (1.86 mmol) of 2-ethyl-5-iodo-pyridine in 2 mL THF with 0.97 mL 2M isopropylmagnesium chloride. Yield: 127 mg of a white powder. LC-MSD, m/z for C24H19ClN2O2 [M+H]+=403.1, 405.1; HPLC retention time: 1.8 min.

reactant | 1-(3-chloro-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.84 mmol, 300 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC(=CC=C1)Cl)C | C19H17ClN2O3
reactant | 2-ethyl-5-iodo-pyridine | 1.86 mmol, 433 mg | C(C)C1=NC=C(C=C1)I | C7H8IN
reactant | isopropylmagnesium chloride | 2M, 0.97 mL | C(C)(C)[Mg]Cl
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(3-Chloro-benzyl)-3-(6-ethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=CC2)CC)C=CC1 | C24H19ClN2O2
